US06982348B2
To a solution of (4RS,5SR)-5-(4-fluorophenyl)-4-((4-(phenyloxy)phenyl)methyl)-1,3-oxazolidin-2-one (2.5 g, 6.88 mmol) in ethanol (20 ml) was added 8N aqueous sodium hydroxide solution (4.30 ml, 34.4 mmol) and the mixture was heated under reflux for 6 hrs. The reaction solution was concentrated, diluted with water (100 ml) and extracted with ethyl acetate (100 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure to give (1RS,2SR)-2-amino-1-(4-fluorophenyl)-3-(4-(phenyloxy)phenyl)-1-propanol (2.2 g, 95%).

reactant | (4RS,5SR)-5-(4-fluorophenyl)-4-((4-(phenyloxy)phenyl)methyl)-1,3-oxazolidin-2-one | 6.88 mmol, 2.5 g | FC1=CC=C(C=C1)C1C(NC(O1)=O)CC1=CC=C(C=C1)OC1=CC=CC=C1 | C22H18FNO3
reactant | sodium hydroxide | 34.4 mmol, 8N, 4.30 ml | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | (1RS,2SR)-2-amino-1-(4-fluorophenyl)-3-(4-(phenyloxy)phenyl)-1-propanol | 2.2 g, 95% | NC(C(O)C1=CC=C(C=C1)F)CC1=CC=C(C=C1)OC1=CC=CC=C1 | C21H20FNO2
